US04254265
5-(N-Methyl-Trichloromethylthioamino)-3-Trichloromethyl-1,2,4-Thiadiazole
To a 3-neck flask equpped with condenser, thermometer and stirring bar was added 11.6 g (0.05 mole) 5-methylamino-3-trichloromethyl-1,2,4- thiadiazole, 5.1 g (0.05 mole) triethylamine and 150 milliliters of benzene. After 9.3 g (0.05 mole) trichloromethane-sulfenyl chloride was added, the reaction mixture was heated at reflux for 20 hours and filtered hot. The filtrate was evaporated under vacuum to give a beige solid which was refluxed in 400 milliliters of ligroin and filtered. The ligroin was cooled, filtered and the filtrate evaporated to 20 milliliters and filtered. The resulting solid was recrystallized again from ligroin to obtain 4.4 g (23% yield) of product; mp=106° C.

reactant | 5-methylamino-3-trichloromethyl-1,2,4- thiadiazole | 0.05 mole, 11.6 g | CNC1=NC(=NS1)C(Cl)(Cl)Cl | C4H4Cl3N3S
reactant | triethylamine | 0.05 mole, 5.1 g | C(C)N(CC)CC | C6H15N
reactant | trichloromethane-sulfenyl chloride | 0.05 mole, 9.3 g | ClC(SCl)(Cl)Cl | CCl4S
solvent | benzene | 150 milliliters | C1=CC=CC=C1 | C6H6
product | 5-(N-Methyl-Trichloromethylthioamino)-3-Trichloromethyl-1,2,4-Thiadiazole | 4.4 g, 23% yield | CN(C1=NC(=NS1)C(Cl)(Cl)Cl)SC(Cl)(Cl)Cl | C5H3Cl6N3S2
